US05270309
To 4-(2-aminoethyl)morpholine (10 ml) was added methyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate (1 g) followed by triethylamine (1 ml) and the solution was stirred at room temperature for 16 hours. The reaction mixture was diluted with water (100 ml) and extracted with ethyl acetate (5×50 ml), the combined organic layers were washed with water (2×50 ml), brine (2×50 ml) and dried over magnesium sulphate. The solvent was removed under reduced pressure to yield a crude product (0.4 g). The aqueous layer yielded a further 0.9 g of crude product after standing overnight. The combined crude product was treated with methanol (5 ml) and hydrogen chloride in ethyl acetate (5 ml of 5M), to give a white crystalline product which was recrystallised from ethanol-water to yield 5,7-dichloro-2-[2-(4-morpholinyl)ethyl]carbamoyl-4-oxo-1,4-dihydroquinoline hydrochloride (0.63 g), m.p.>280° C. δ (360 MHz, D2O) 3.48 (6H, CH2N and morpholinyl-3,5-H), 3.86 (2H, t, CONHCH2), 4.00 (4H, bs, morpholinyl-2.6-H), 6.63 (1H, s, 3-H), 7.33 (1H, d, 6-H) and 7.54 (1H, d, 8-H), (Found: C, 46.36: H, 4.57: N, 10.12; Cl, 24.80%. C16H17Cl2N3O3.HCl.H2O requires C, 46.23; H, 4.61, N, 10.11; Cl, 25.59%).

reactant | 4-(2-aminoethyl)morpholine | 10 ml | NCCN1CCOCC1 | C6H14N2O
reactant | methyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate | 1 g | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(=O)OC)=O | C11H7Cl2NO3
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 5M, 5 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | 5,7-dichloro-2-[2-(4-morpholinyl)ethyl]carbamoyl-4-oxo-1,4-dihydroquinoline hydrochloride | 0.63 g | Cl.ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(NCCN1CCOCC1)=O)=O | InChI=1S/C16H17Cl2N3O3.ClH/c17-10-7-11(18)15-12(8-10)20-13(9-14(15)22)16(23)19-1-2-21-3-5-24-6-4-21;/h7-9H,1-6H2,(H,19,23)(H,20,22);1H
